US06388088B1
A solution of 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid methyl ester (870 mg, 2.27 mmol) in ethanol (12 mL) was treated with a 1N aqueous sodium hydroxide solution (8 mL). The solution was heated at 45-50° C. for 3 h, at which time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was concentrated in vacuo to remove ethanol. The residue was diluted with water (50 mL) and extracted with diethyl ether (1×60 mL) to remove any neutral impurities. The aqueous layer was then acidified with a 1N aqueous hydrochloric acid solution, and the resulting acid was extracted into ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid (781 mg, 93%) as a white solid: EI-HRMS m/e calcd for C17H19N4O2 (M+) 368.1460, found 368.1460.

reactant | 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid methyl ester | 2.27 mmol, 870 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F)=O | C18H21F3N4O2
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid | 781 mg, 93% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F | C17H19F3N4O2
